US08729078B2
In a 10 mL round-bottomed flask, 7-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (39 mg, 83.2 μmol, Eq: 1.00) and [hydrogen bis(dimethylphosphinito-kP)]platinum (II) (1 mg, 2.33 μmol, Eq: 0.0280) were combined with Ethanol (2 ml) and Water (1 ml) to give a colorless solution. The reaction mixture was heated to 80° C. and stirred for 2 h. The reaction mixture was diluted with DCM. The reaction mixture was filtered through glass fiber paper. HPLC purification done to obtain 7-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid amide (33 mg, 66%, [M+H]+ 487).

reactant | 7-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 83.2 μmol, 39 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C2=C1N=CN=C2)C#N)CO | C26H21FN6O2
reactant | Ethanol | 2 ml | C(C)O | C2H6O
reactant | Water | 1 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 7-[3-(6-tert-Butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-7H-pyrrolo[2,3-d]pyrimidine-5-carboxylic acid amide | 33 mg, 66% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C2=C1N=CN=C2)C(=O)N)CO | C26H23FN6O3
